US08278030B2
After mixing 11.0 parts of 2-chlorothioxanthone, 4.9 parts of thiophenol, 2.5 parts of potassium hydroxide, and 162 parts of N,N-dimethylformamide uniformly and then making them react at 130° C. for 9 hours, the reaction solution was cooled to room temperature (about 25° C.) and then was poured into 200 parts of distilled water, so that the product was precipitated. This was filtered and the residue was washed with water until the pH of the filtrate became neutral. Then the residue was dried under reduced pressure, affording a yellow powdery product. The product was purified by column chromatography (eluate:toluene/hexane=1/1:volume ratio) to afford 2-(phenylthio)thioxanthone in a yield of 45%. The product was identified by 1H-NMR {d6-dimethyl sulfoxide, δ (ppm) 8.43 (1H, d), 8.25 (1H, s), 7.75-7.90 (3H, m), 7.66 (1H, d), 7.60 (1H, t), 7.42-7.46 (5H, m)}.

reactant | 2-chlorothioxanthone | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7ClOS
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(phenylthio)thioxanthone | yield of 45% | C1(=CC=CC=C1)SC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C19H12OS2
